US07419984B2
A mixture of 3-iodo-4-methyl-phenylamine (5.0 g, 21 mmol) and 48% hydrobromic acid (30 ml) was heated at 90° C. for 30 minutes. After cooling in an ice bath, a solution of sodium nitrite (1.7 g, 25.2 mmol) in water (5 ml) was added and stirred for 15 minute. This mixture was added to a mixture of copper bromide (I) (3.6 g, 25.2 mmol), 48% hydrobromic acid (20 ml) and ice (50 g) cooled in an ice bath. After stirring for 20 minutes, the mixture was heated at 90° C. for 1 hour. After stirring at room temperature for 16 hours, the mixture was treated with water (350 ml) and extracted with dichloromethane (100 ml). The organic layer was washed with saturated aqueous sodium bicarbonate solution (100 ml), washed with saturated aqueous sodium chloride solution (100 ml), dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by flash chromatography eluting with hexane to give 5-bromo-2-methyl-1-iodo-benzene (4.4 g, 71% yield). 1H NMR (acetone-d6) δ 2.40 (s, 3H, CH3), 7.30 (d, 1H, J=8.2 Hz, Ar), 7.50 (dd, 1H, J=8.2 Hz, J=2.0 Hz, Ar), 8.00 (d, 1H, J=2.0 Hz, Ar).

reactant | 3-iodo-4-methyl-phenylamine | 21 mmol, 5.0 g | IC=1C=C(C=CC1C)N | C7H8IN
reactant | hydrobromic acid | 30 ml | Br | BrH
reactant | sodium nitrite | 25.2 mmol, 1.7 g | N(=O)[O-].[Na+]
reactant | hydrobromic acid | 20 ml | Br | BrH
solvent | water | 5 ml | O | H2O
catalyst | copper bromide | 25.2 mmol, 3.6 g | [Cu](Br)Br
solvent | water | 350 ml | O | H2O
product | 5-bromo-2-methyl-1-iodo-benzene | 4.4 g, 71% yield | BrC=1C=CC(=C(C1)I)C | C7H6BrI
